US04775674
4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-N-(1-ethylpropyl)butanamide
This compound, m.p. 312°-314° C., was prepared from 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid and 1-ethylpropylamine.

reactant | 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)O)N1 | C14H13N3O4
reactant | 1-ethylpropylamine | C(C)C(CC)N | C5H13N
product | 4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-N-(1-ethylpropyl)butanamide | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)NC(CC)CC)N1 | C19H24N4O3
